Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lamotrigine / levetiracetam
 
Attending: ___.
 
Chief Complaint:
"Found down."
 
Major Surgical or Invasive Procedure:
Left HD line insertion
Right IJ line insertion
HD line placement (removed ___
Intubation, s/p extubation ___

 
History of Present Illness:
___ with unknown medical history, but is resident of a group 
home was found down by her ___. Pt presented initially to OSH 
ED, where she was evaluated with CT head which was negative. CTA 
showed bilateral saddle pulmonary embolisms and whe was started 
on heparin gtt w/6000U bolus and 1800cc/hr.  She was transferred 
to ___ for further evaluation. An arrival to ___, the 
patient continued to be hypoxemic and became altered and was 
intubated for airway protection. During intubation, the patient 
was noted to be progressively more hypotensive. A radial A-line 
was placed. She was evaluated with a stat CT head which showed 
no acute intracranial pathology. The patient's hemodynamics 
improved. 

___ the ED, initial vitals were: HR 124, BP 105/76, RR 32, O2 99% 
on NRB 
Labs:
- WBC 14.0, Hgb 13.0, HCT 41.2, Plt 148 
- Cr 1.2, HCO3 11, Phos 7.2 
- ALT 213, AST 184, AP 85, Alb 3.3 
- troponin 0.04, BNP 19699
- UA SG > 1.050, protein 100, few bacteria  
- INR 8.0
- ABG pH 7.12, pCO2 34, pO2 372, HCO3 12, lactate 3.9 

Imaging:  
CXR: 
1. Tip of the ET tube situated 5.2 cm above the carina at the 
thoracic inlet.
2. Dilatation of the main and left pulmonary artery compatible 
with known pulmonary embolism

CT head: Somewhat motion degraded study. This limitation, no 
acute intracranial process.

Bedside TTE showed R heart strain 

Consults: Cardiology
 
Patient was given: fentanyl   
Decision was made to admit to CCU for management of PE 

REVIEW OF SYSTEMS:  
(+) per HPI, all other ROS otherwise negative 

 
Past Medical History:
- PTSD
- T2DM
- GERD
- Hyperlipidemia
- Sleep walking and night terrors
- COPD
- Subclinical hypothyroidism
- Mood disorder with psychosis
- Anorexia Nervosa
- Tobacco use
- Renal insufficiency
- History of empyema
- Borderline personality disease
- Lower extremity edema
- Diabetic foot ulcer
 
Social History:
___
Family History:
No family history of heart disease, clotting disorder, or 
malignancy
 
Physical Exam:
Admission exam:
VS: T97.8, HR 106, BP 66/45, RR 36, O2 98% 
Weight: 83.5kg
GEN: intubated, sedated
HEENT: purple discoloration to upper chest 
NECK: JVD appears elevated but difficult to appreciate
CV: tachycardic, nl S1 S2, on M/R/G
LUNGS: CTA anteriorly over ventilator
ABD: soft, NT, ND, NABS 
EXT: WWP, no edema
NEURO: opens eyes to name  

___ exam:
VS: 98.1 123/73 59 18 99RA
I/O: 1800/poorly recorded +3BMs
Weights: not recorded
Gen: NAD, laying ___ bed
HEENT: no elevated JVD, dysphonic, MMM
CV: RRR, no m/r/g
Resp: CTAB
Abd: soft, NT/ND, BS+
Ext: no edema, WWP 
Neuro: Follows commands appropriately, ___ strength ___ UE and 
___ A&Ox3

 
Pertinent Results:
MICROBIOLOGY:
==============================================
C. difficile DNA amplification assay (Final ___: 
      Reported to and read back by ___ ___ 
11:25AM. 
      CLOSTRIDIUM DIFFICILE. 
         Positive for toxigenic C. difficile by the Illumigene 
DNA
         amplification.    
 MRSA SCREEN (Final ___:    No MRSA isolated. 
   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 

   RESPIRATORY CULTURE (Final ___: 
      MODERATE GROWTH Commensal Respiratory Flora. 
      YEAST.    RARE GROWTH. 
         THIS ORGANISM CONSIDERED TO BE PART OF THE COMMENSAL 
RESPIRATORY
         FLORA. 

   Blood Culture, Routine (Final ___: 
      VIRIDANS STREPTOCOCCI. 
         Isolated from only one set ___ the previous five days. 
         WORKUP REQUESTED BY ___. 
         FINAL SENSITIVITIES.  CEFTRIAXONE REQUESTED. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             VIRIDANS STREPTOCOCCI
                             |   
CEFTRIAXONE-----------<=0.12 S
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------     2 R
PENICILLIN G----------<=0.06 S
VANCOMYCIN------------   0.5 S

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI ___ PAIRS AND CHAINS. 

IMAGING/REPORTS
==============================================
TTE ___:
The left atrium and right atrium are normal ___ cavity size. Left 
ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%). Tissue Doppler imaging 
suggests a normal left ventricular filling pressure 
(PCWP<12mmHg). The right ventricular cavity is mildly dilated 
with severe global free wall hypokinesis. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. There is mild pulmonary artery systolic 
hypertension. There is no pericardial effusion. 
IMPRESSION: Dilated right ventricle with severe RV systolic 
dysfunction. Normal left ventricular systolic function. Mild 
pulmonary hypertension ___ the setting of severe RV 
dysfunction).

CT head ___: FINDINGS:  The study is somewhat motion degraded.  
Given this limitation, there is no evidence of infarction, 
hemorrhage, edema, or mass. The ventricles and sulci are normal 
___ size and configuration. 
There is no evidence of fracture.  The visualized portion of the 
paranasal 
sinuses, mastoid air cells, and middle ear cavities are clear.  
The visualized portion of the orbits are unremarkable. 
IMPRESSION: 1. Somewhat motion degraded study.  This limitation, 
no acute intracranial process. 

Abdominal U/s ___: FINDINGS: LIVER: The hepatic parenchyma 
appears within normal limits. The contour of the liver is 
smooth. There is a focal echogenic mass ___ the left lobe 
measuring 1.7 x 1.3 x 1.4 cm, with geographic borders.  The main 
portal vein is patent with hepatopetal flow. There is no 
ascites.  The hepatic veins are patent. 
BILE DUCTS: There is no intrahepatic biliary dilation. The CBD 
measures 6 mm.   
GALLBLADDER: The gallbladder contains sludge, but is 
non-dilated, and there is no pericholecystic fluid. 
PANCREAS: Imaged portion of the pancreas appears within normal 
limits, without masses or pancreatic ductal dilation, with 
portions of the pancreatic tail obscured by overlying bowel gas. 

SPLEEN: Normal echogenicity, measuring 10.6 cm.   
KIDNEYS: The right kidney measures 13 cm. The left kidney 
measures 12.6 cm. Normal cortical echogenicity and 
corticomedullary differentiation is seen bilaterally. There is 
no evidence of masses, stones, or hydronephrosis ___ the kidneys. 
 Limited evaluation of renal vascularity demonstrates patent 
renal arteries veins with normal waveforms. 
RETROPERITONEUM: Visualized portions of aorta and IVC are within 
normal 
limits.   
IMPRESSION:   
1.  Patent hepatic veins and main portal vein.  Patent bilateral 
renal 
vasculature.  Evaluation of the renal vasculature is slightly 
limited due to patient's body habitus. 
2.  Incidental geographic hyperechoic lesion ___ the left lobe of 
liver likely hemangioma or focal fatty infiltration ___ the 
absence of a history of known neoplasm). 
3.  Sludge within the gallbladder, without evidence of 
cholecystitis. 

CT head ___:
IMPRESSION:   
1. When compared to prior examination of ___, there 
is apparent increased sulcal effacement of the bilateral 
cerebral convexities, which may be representative of edema from 
prolonged hypoxia and ischemia.  The finding may be artifactual 
secondary to technique however MRI could be performed for 
confirmation. 
2. There is no diffuse loss of gray-white differentiation nor is 
there 
evidence of acute large territorial infarct.  No intracranial 
hemorrhage. 

MRI brain ___
FINDINGS:   
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift or infarction.   The ventricles and sulci are 
normal ___ caliber and 
configuration.  There is mucosal thickening ___ the visualized 
paranasal sinuses.  The orbits are unremarkable.  There is fluid 
opacification of bilateral mastoid air cells with secretions ___ 
the nasopharynx, likely secondary to intubation. 
IMPRESSION: 
1. No acute intracranial abnormality. 
2. Paranasal sinus inflammatory disease. 

TTE ___:
Normal left ventricular wall thickness, cavity size, and global 
systolic function (3D LVEF = 57 %). The right ventricular cavity 
is mildly dilated with mild global free wall hypokinesis. 
Tricuspid annular plane systolic excursion is normal (1.7 cm, 
mildly abnormal ___ setting of mild RV dilation). There is 
abnormal systolic septal motion/position consistent with right 
ventricular pressure overload. The aortic valve leaflets (3) 
appear structurally normal with good leaflet excursion and no 
aortic stenosis or aortic regurgitation. No masses or 
vegetations are seen on the aortic valve, but cannot be fully 
excluded due to suboptimal image quality. The mitral valve 
leaflets are mildly thickened. There is no mitral valve 
prolapse. No masses or vegetations are seen on the mitral valve, 
but cannot be fully excluded due to suboptimal image quality. 
Trivial mitral regurgitation is seen. No masses or vegetations 
are seen on the tricuspid valve, but cannot be fully excluded 
due to suboptimal image quality. There is moderate pulmonary 
artery systolic hypertension. There is no pericardial effusion. 
IMPRESSION: No echocardiographic evidence of cardiac emboli 
noted. Mild RV dilation and systolic function (worse toward the 
apex) with distal D-shaped septum (reverse ___ sign). 
Compared with the prior study (images reviewed) of ___, RV 
appears less dilated and systolic function more vigorous

EKG ___: Clinical indication for EKG: R06.02 - Shortness of 
breath 
  
Sinus rhythm. Anteroseptal and lateral T wave changes may be due 
to ischemia. Compared to the previous tracing of ___ right 
bundle-branch block has resolved. 

___: Clinical indication for EKG: ___.___ - QT interval for 
medication monitoring 
  
Sinus bradycardia. Q-T interval prolongation. Biphasic T waves 
___  
leads II, III, and aVF. Deep T wave inversion ___ leads V1-V5, 
similar to that recorded on ___. Rule out myocardial 
infarction. Followup and clinical correlation are suggested. 

___ Video Oropharyngeal Swallow Study: 
Barium passes freely through the oropharynx and esophagus 
without evidence of obstruction. There was gross aspiration of 
nectar thick and thin liquids.   
IMPRESSION:  Gross aspiration of nectar thick and thin liquids. 

ADMISSION LABORATORY STUDIES
==============================================
___ 01:13AM BLOOD WBC-14.0* RBC-4.24 Hgb-13.0 Hct-41.2 
MCV-97 MCH-30.7 MCHC-31.6* RDW-14.2 RDWSD-49.8* Plt ___
___ 01:13AM BLOOD Neuts-71.3* ___ Monos-6.4 
Eos-0.1* Baso-0.2 NRBC-0.1* Im ___ AbsNeut-9.94* 
AbsLymp-2.98 AbsMono-0.89* AbsEos-0.02* AbsBaso-0.03
___ 01:13AM BLOOD ___ PTT-150* ___
___ 11:00AM BLOOD Fibrino-46*
___ 01:13AM BLOOD Glucose-358* UreaN-22* Creat-1.2* Na-140 
K-4.6 Cl-112* HCO3-11* AnGap-22*
___ 01:13AM BLOOD ALT-213* AST-184* AlkPhos-85 TotBili-0.5
___ 01:13AM BLOOD ___
___ 01:13AM BLOOD Albumin-3.3* Calcium-7.4* Phos-7.2* 
Mg-1.9
___ 01:20AM BLOOD Lactate-3.9*
___ 02:41AM BLOOD O2 Sat-99
___ 01:13AM URINE Color-Yellow Appear-Clear Sp ___
___ 01:13AM URINE Blood-NEG Nitrite-NEG Protein-100 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.5 Leuks-NEG
___ 01:13AM URINE RBC-7* WBC-1 Bacteri-FEW Yeast-NONE Epi-3
___ 01:13AM URINE Mucous-FEW

COAGULATION STUDIES
==============================================
___ 06:30AM BLOOD ___
___ 12:55PM BLOOD ___
___ 06:35AM BLOOD ___ PTT-32.9 ___
___ 06:10AM BLOOD ___ PTT-39.3* ___
___ 06:10AM BLOOD ___ PTT-38.8* ___
___ 05:00AM BLOOD ___ PTT-35.3 ___

LIVER FUNCTION TESTS
==============================================
___ 06:10AM BLOOD ALT-42* AST-21 LD(___)-219 AlkPhos-98 
TotBili-0.6
___ 04:54AM BLOOD ALT-125* AST-20 LD(___)-235 AlkPhos-98 
TotBili-0.5
___ 04:25AM BLOOD ALT-278* AST-26 LD(___)-320* AlkPhos-122* 
TotBili-0.5
___ 05:03AM BLOOD ALT-1508* AST-214* AlkPhos-196* 
TotBili-2.1*
___ 04:45AM BLOOD ALT-3371* AST-1124* LD(___)-574* 
AlkPhos-119* TotBili-1.6*
___ 05:21AM BLOOD ALT-4866* AST-2844* LD(___)-1714* 
AlkPhos-119* TotBili-1.1
___ 05:30AM BLOOD ALT-6960* AST-9075* LD(___)-9805* 
CK(CPK)-386* AlkPhos-104 TotBili-0.7
___ 06:35PM BLOOD ALT-8010* ___ 
CK(CPK)-320* AlkPhos-93 TotBili-0.5
___ 11:00AM BLOOD ALT-6740* AST-8035* CK(CPK)-289* 
AlkPhos-94 TotBili-0.7
___ 01:13AM BLOOD ALT-213* AST-184* AlkPhos-85 TotBili-0.5

OTHER PETINENT LABORATORY STUDIES
==============================================
___ 01:13AM BLOOD cTropnT-0.04*
___ 11:00AM BLOOD CK-MB-10 MB Indx-3.5 cTropnT-0.24*
___ 06:35PM BLOOD CK-MB-10 MB Indx-3.1 cTropnT-0.44*
___ 05:30AM BLOOD CK-MB-7 cTropnT-0.36*
___ 04:30PM BLOOD calTIBC-164* Ferritn-1560* TRF-126*
___ 05:30AM BLOOD TSH-2.5
___ 04:30PM BLOOD HBsAg-NEGATIVE HBsAb-POSITIVE 
HBcAb-NEGATIVE HAV Ab-POSITIVE
___ 04:34PM BLOOD Smooth-NEGATIVE
___ 04:30PM BLOOD AMA-NEGATIVE
___ 04:30PM BLOOD IgG-343* IgA-156 IgM-92
___ 04:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-POS Barbitr-NEG Tricycl-NEG
___ 04:30PM BLOOD HCV Ab-NEGATIVE

DISCHARGE LABORATORY STUDIES
==============================================
___ 06:30AM BLOOD WBC-7.3 RBC-4.32 Hgb-13.1 Hct-41.5 MCV-96 
MCH-30.3 MCHC-31.6* RDW-14.8 RDWSD-51.6* Plt ___
___ 06:30AM BLOOD ___
___ 06:30AM BLOOD Glucose-239* UreaN-18 Creat-1.3* Na-137 
K-5.0 Cl-100 HCO3-26 AnGap-16
___ 06:10AM BLOOD ALT-42* AST-21 LD(LDH)-219 AlkPhos-98 
TotBili-0.6
___ 06:30AM BLOOD Calcium-9.9 Phos-5.0* Mg-1.___ with PMH PTSD, T2DM, HLD, COPD, tobacco use, borderline 
personality disorder who presented after being found down by 
___, found to have massive pulmonary embolism (s/p tPA, now on 
Coumadin), with course c/b oliguric renal failure ___ ATN, 
initially on HD, now resolved off HD), shock liver (resolved), 
strep viridans bacteremia, cdif (on po vanc, last day ___. 

 
#SADDLE PULMONARY EMBOLISM: 
Pt initially was found down by her ___ and brought to an outside 
hospital where a CTA showed bilateral saddle pulmonary 
embolisms, for which she was started on heparin drip and 
transferred to ___.  On arrival to ___, she was hypotensive 
and hypoxic and she was emergently intubated. BNP 19699, 
troponin leak to 0.44, and TTE showing dilated right ventricle 
with severe RV systolic dysfunction were highly concerning for 
massive PE. ___, she became hypotensive requiring 
epinephrine and phenylephrine. Given her hemodynamic 
instability, she was transitioned to full dose tPA.  She was 
transitioned to Coumadin with a heparin drip bridge.  Follow up 
TTE showed improvement ___ right heart strain.  She was 
discharged on Coumadin with a goal INR of 2 to 3. Given that 
this is apparently an unprovoked PE, she will likely require 
lifelong anticoagulation. 

#ACUTE HYPOXIC RESPIRATORY FAILURE: Patient required intubation 
as stated above secondary to massive PE. She was admitted to the 
CCU for the majority of her hospital course. She was extubated 
on ___ and did not require O2 by the time of discharge.

# DELIRIUM/COMPLEX PSYCHIATRIC HISTORY: 
Pt has a complex psychiatric history of reported anorexia 
nervosa (restrictive type), borderline personality disorder, and 
bipolar affective disorder.  During hospitalization, pt 
developed waxing and waning sensorium and agitation.  Psychiatry 
and neurology were consulted.  MRI and CT of the head were 
negative.  Her altered mental status was felt to be secondary to 
delirum due to her medical illness.  Given level of sedation and 
multifactorial delirium, her home Ziprasidone, Prazosin, 
Gabapentin and Clonazepam were initially held.  Pt required 
Precedex with a slow wean given agitation.  Pt was managed on 
TID perphenazine and clonidine  Clonidine was eventually weaned 
off and she was restarted on her home Prazosin.  To prevent 
withdrawal, her home Topiramate was weaned.  After weaning, she 
was more alert and oriented, and endorsed suicidal ideations and 
tried to tie a cord around her neck while pressing the call 
button for the nurse simultaneously.  Given risk to harm herself 
she was placed on 1:1 sitter.  Pt later denied any thoughts of 
self harm or symptoms of depression.  Per psychiatry, she was 
not felt to meet criteria for involuntary psychiatric 
hospitalization and patient declined offer of voluntary 
admission.  Pt was discharged with follow up scheduled with 
outpatient psychiatrist on ___.   Pt was discharged on her 
home doses of Clonazepam, Gabapentin, Perphenazine and Prazosin. 
 She was started on lower doses of her home Ziprasidone, and 
Topiramate.
 
#Clostridium Difficile Colitis:
Pt noted to have diarrhea and found to have positive cdif on 
___. She was initially started PO vancomycin and PO flagyl (___) and then narrowed to PO vancomycin on ___. Pt discharged 
with a plan to complete a 14-day course of PO vancomycin for 
treatment of cdif (last day ___.

#Vocal cord paralysis:
After extubation, pt noted to have dysphonia and aspiration on 
bedside swallow.  Pt seen by ENT, who noted left sided vocal 
cord paralysis.  Started on PPI BID.  Pt to follow up with ENT 
as an outpatient for further management.  Speech and swallow 
identified aspiration and recommended on puree solids and nectar 
thick liquids and noted all per oral intake must be done with 
left head turn with every bite/sip. 

# OLIGURIC RENAL FAILURE: 
Pt developed oliguric renal failure, likely due to hypotension 
from the massive pulmonary embolism plus contrast injury.  Pt 
seen by renal consult, who noted muddy brown casts ___ urine 
sediment, consistent with ATN.  Creatinine peaked at 6.4 (from 
admission creatinine of 1.2).  Pt received hemodialysis for 
volume and solute clearance (from ___ to ___.  She 
developed rapid recovery so hemodialysis was discontinued and 
the HD line was pulled on ___.  Creatinine on discharge was 
1.3.  She will need outpatient follow up with nephrology.  

# BACTEREMIA, STREP VIRIDANS
Pt febrile on ___ and found to have strep viridans bacteremia. 
Strep viridans may be a contaminant, however, the patient has a 
reported h/o poor dentition and dental pain and temporarily 
related fever was concerning for true strep viridans bacteremia. 
 She was initially on IV vancomycin (___). TTE showed no 
evidence of endocarditis.  Discontinued ceftriaxone and flagyl 
___ given no recurrent fevers.  Pt remained afebrile during 
the rest of the hospitalization and had no subsequent positive 
blood cultures. 

#Cystitis
Pt found to have pan-sensitive e. coli UTI, for which she 
received a course of IV Ceftriaxone.

# TRANSAMINITS: 
Pt found to have transaminitis with AST and ALT ___ the 
thousands, elevated INR and normal bilirubin and ALP.  Her acute 
hepatitis was likely secondary to ischemic hepatopathy.  
Hepatology was consulted.  Resolving on discharge. 

 
CHRONIC ISSUES:  
================ 
# T2DM: managed with ISS during hsopitalization
# COPD: continued on home medications 
# HLD: f/u home medications 
#Hypothyroidism: continued on home levothyroxine
 

TRANSITIONAL ISSUES
========================================
1. Pt needs to complete a 14-day course of PO vancomycin for 
treatment of cdif (last day ___
2. Pt with new vocal cord paralysis, for which she is scheduled 
for ENT follow up. She was started on Pantoprazole 40mg Q12H and 
will need vocal cord injections. She will need CT 
head/neck/chest with contrast to evaluate the course of the 
recurrent laryngeal nerve and vagus nerve. She is recommended to 
have modified diet of puree solids and nectar thick liquids and 
noted all per oral intake must be done with left head turn with 
every bite/sip.
3. Pt needs outpatient follow up with nephrology with ___ 
___. Her office can be reached at ___.
4. Pt should have outpatient workup for hypercoagulobility 
predisposition, including anti-phospholipid antibody syndrome 
given family history of miscarriages and mother who had an 
unprovoked DVT.  
5. Pt should undergo age-appropriate cancer screening given the 
concern that PE may be provoked by underlying malignancy. 
6. Pt discharged on Coumadin, which will be followed by her PCP. 
INR on discharge (___) was 1.9. She will need repeat INR 
check on ___. Coumadin course is projected to be lifelong 
given unprovoked VTE.
7. Home statin held given elevated transaminases ___ setting of 
shock liver. This may be restarted ___ the outpatient setting as 
LFTs continue to improve. 
8. Pt's home psychiatric medications were adjusted during 
hospitalization. Pt was discharged on her home doses of 
Clonazepam, Gabapentin, Perphenazine and Prazosin. She was 
started on lower doses of her home Ziprasidone, and Topiramate. 
Pt scheduled for follow-up with outpatient Psychiatrist. If pt 
is interested ___ pursuing partial hospital program, she can call 
Arbour Counseling at ___. If suicidal thoughts occur, 
pt instructed to call ___ or present to nearest emergency room.
9. Pt recently discontinued her home Metformin. She required 
insulin sliding scale during hospitalization. Pt should have 
outpatient consideration of restarting medications for diabetes.

# CODE: Full 
# CONTACT: daughter/HCP ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H 
2. Flovent HFA (fluticasone) 44 mcg/actuation inhalation 1 puff 
2x/day 
3. ZIPRASidone Hydrochloride 80 mg PO QHS 
4. ClonazePAM 1 mg PO BID 
5. Levothyroxine Sodium 25 mcg PO DAILY 
6. Loratadine 10 mg PO DAILY 
7. Gabapentin 800 mg PO TID 
8. Perphenazine 8 mg PO TID 
9. Prazosin 5 mg PO QHS 
10. Pantoprazole 40 mg PO Q12H 
11. Topiramate (Topamax) 150 mg PO BID 
12. Simvastatin 40 mg PO QPM 
13. Ibuprofen 600 mg PO Q6H:PRN pain 
14. Naproxen 250 mg PO Q12H:PRN pain 
15. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q6H:PRN wheezing 

 
Discharge Medications:
1. ClonazePAM 1 mg PO BID 
RX *clonazepam 1 mg 1 tablet(s) by mouth twice a day Disp #*14 
Tablet Refills:*0
2. Gabapentin 800 mg PO TID 
RX *gabapentin 800 mg 1 tablet(s) by mouth three times a day 
Disp #*15 Tablet Refills:*0
3. Levothyroxine Sodium 25 mcg PO DAILY 
4. Prazosin 5 mg PO QHS 
RX *prazosin 5 mg 1 capsule(s) by mouth at bedtime Disp #*30 
Capsule Refills:*0
5. Topiramate (Topamax) 25 mg PO BID 
RX *topiramate 25 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0
6. ZIPRASidone Hydrochloride 40 mg PO QHS 
RX *ziprasidone HCl 40 mg 1 capsule(s) by mouth at bedtime Disp 
#*30 Capsule Refills:*0
7. Vancomycin Oral Liquid ___ mg PO Q6H 
RX *vancomycin 125 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*30 Capsule Refills:*0
8. Warfarin 4 mg PO DAILY16 
RX *warfarin 2 mg 2 tablet(s) by mouth Daily Disp #*60 Tablet 
Refills:*0
9. Flovent HFA (fluticasone) 44 mcg/actuation inhalation 1 puff 
2x/day 
10. Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H 
11. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q6H:PRN wheezing 
12. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
13. Perphenazine 8 mg PO TID 
RX *perphenazine 8 mg 1 tablet(s) by mouth three times a day 
Disp #*20 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Primary:
Massive pulmonary embolus
Acute hypoxic respiratory failure
Acute tubular necrosis
Shock liver
Clostridium difficile colitis
Complicated cystitis
Toxometabolic delirium

Secondary:
Hypothyroidism
Borderline personality disorder
History of suicide attempts
Post traumatic stress disorder
Bipolar disorder
Psychosis 
Anorexia nervosa

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were seen at ___ after 
being found by your ___. You were found to have a very large 
blood clot to your lungs. This caused you to have low blood 
pressure, and your liver and kidneys sustained some damage from 
this. You required dialysis because of your kidney failure. 
However, both your liver and your kidneys recovered, and you 
will not need dialysis for the foreseeable future. You will need 
to follow up with a kidney doctor (___) after your 
discharge. 

You needed to be intubated so that a breathing machine could 
help you breathe. As the blood clot to your lungs got better, 
you were able to be taken off the machine. However, after you 
came off the machine, you were found to have paralysis of your 
vocal cords. This is why you have lost your voice. You will need 
to follow up with our Ear/Nose/Throat (ENT) doctors after your 
___ for further management.

Your blood clot improved with blood thinners, and you will need 
to continue on these for the foreseeable future.  You will 
continue to take a blood thinner called Coumadin (aka Warfarin). 
 You will have to have your Coumadin level (aka "INR") monitored 
frequently, and your dose adjusted as needed.

You were also found to have an infection ___ your large intestine 
(called C diff).  You were treated with antibiotics for this.  
You need to continue taking vancomycin (last day ___.

Please take all medications as prescribed and please follow up 
with the appointments we have arranged. It is very important 
that you see your primary care doctor, your kidney doctor, your 
psychiatrist, and your ENT doctor after you leave the hospital 
to ensure ongoing care.

Do not make any medication changes to your psychiatric 
medications until you follow up with your Psychiatrist.  If you 
would like to do a partial program, please contact ___ 
___ at ___.  If you have any feelings that you 
are unsafe, or feel like you are going to harm yourself or 
others, please call ___ or go to the Emergency Department 
immediately. 

It was a pleasure taking care of you.

Sincerely,
Your ___ Team
 
Followup Instructions:
___